*NMOS OFF CONDUCTION
*********************************
* PTM 45nm Metal Gate / High-K  

.model  nmos  nmos level=54 

+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0             
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1             
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1             
+permod  = 1               acnqsmod= 0               trnqsmod= 0             

+tnom    = 27              toxe    = 9e-010          toxp    = 6.5e-010        toxm    = 9e-010        
+dtox    = 2.5e-010        epsrox  = 3.9             wint    = 5e-009          lint    = 2.7e-009      
+ll      = 0               wl      = 0               lln     = 1               wln     = 1             
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1             
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = 9e-010           xl      = -20e-9
+dlcig   = 2.7e-009      

+vth0    = 0.3423          k1      = 0.2             k2      = 0               k3      = 0             
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2             
+dvt2    = 0               dvt0w   = 0               dvt1w   = 0               dvt2w   = 0             
+dsub    = 0.078           minv    = 0.05            voffl   = 0               dvtp0   = 1e-010        
+dvtp1   = 0.1             lpe0    = 0               lpeb    = 0               xj      = 1.4e-008      
+ngate   = 1e+023          ndep    = 6.5e+018        nsd     = 2e+020          phin    = 0             
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0             
+voff    = -0.13           nfactor = 1.9             eta0    = 0.0055          etab    = 0             
+vfb     = -1.058          u0      = 0.02947         ua      = -5e-010         ub      = 1.7e-018      
+uc      = 0               vsat    = 159550          a0      = 1               ags     = 0             
+a1      = 0               a2      = 1               b0      = 0               b1      = 0             
+keta    = 0.04            dwg     = 0               dwb     = 0               pclm    = 0.06          
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = -0.005          drout   = 0.5           
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 2.0e+009        pscbe2  = 1e-007        
+fprout  = 0.2             pdits   = 0.01            pditsd  = 0.23            pditsl  = 2300000       
+rsh     = 5               rdsw    = 105             rsw     = 52.5            rdw     = 52.5            
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0             
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005         
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002        
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002         
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004         
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.018029        bigc    = 0.0029        
+cigc    = 0.002           aigsd   = 0.018029        bigsd   = 0.0029          cigsd   = 0.002         
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1             
+xrcrg1  = 12              xrcrg2  = 5             

+cgso    = 1e-010          cgdo    = 1e-010          cgbo    = 0               cgdl    = 7.5e-013      
+cgsl    = 7.5e-013        clc     = 1e-007          cle     = 0.6             cf      = 1.1e-010      
+ckappas = 0.6             ckappad = 0.6             vfbcv   = -1              acde    = 1             
+moin    = 15              noff    = 1               voffcv  = 0             

+kt1     = -0.154          kt1l    = 0               kt2     = 0.022           ute     = -1.1          
+ua1     = 1e-009          ub1     = -1e-018         uc1     = -5.6e-011       prt     = 0             
+at      = 33000         

+fnoimod = 1               tnoimod = 0               noia    = 6.25e+041       noib    = 3.125e+026    
+noic    = 8.75e+009       em      = 41000000        af      = 1               ef      = 1             
+kf      = 0               tnoia   = 1.5             tnoib   = 3.5             ntnoi   = 1             

+jss     = 1.2e-006        jsws    = 2.4e-013        jswgs   = 2.4e-013        njs     = 1             
+ijthsfwd= 0.1             ijthsrev= 0.1             bvs     = 10              xjbvs   = 1             
+jsd     = 1.2e-006        jswd    = 2.4e-013        jswgd   = 2.4e-013        xjbvd   = 1             
+pbs     = 1               cjs     = 0.0018          mjs     = 0.5             pbsws   = 1             
+cjsws   = 1.2e-010        mjsws   = 0.33            cjswgs  = 2.1e-010        cjd     = 0.0018        
+cjswd   = 1.2e-010        mjswd   = 0.33            pbswgd  = 1               cjswgd  = 2.1e-010      
+mjswgd  = 0.33            tpb     = 0               tcj     = 0               tpbsw   = 0             
+tcjsw   = 0               tpbswg  = 0               tcjswg  = 0               xtis    = 3             

+dmcg    = 0               dmci    = 0               dmdg    = 0               dmcgt   = 0             
+dwj     = 0               xgw     = 0               xgl     = 0             

+rshg    = 0.4             gbmin   = 1e-010          rbpb    = 5               rbpd    = 15            
+rbps    = 15              rbdb    = 15              rbsb    = 15              ngcon   = 1    

.model  pmos pmos level = 54 

+version = 4.0             binunit = 1               paramchk= 1               mobmod  = 0
+capmod  = 2               igcmod  = 1               igbmod  = 1               geomod  = 1
+diomod  = 1               rdsmod  = 0               rbodymod= 1               rgatemod= 1
+permod  = 1               acnqsmod= 0               trnqsmod= 0

+tnom    = 27              toxe    = 9.2e-010        toxp    = 6.5e-010        toxm    = 9.2e-010
+dtox    = 2.7e-010        epsrox  = 3.9             wint    = 5e-009          lint    = 2.7e-009
+ll      = 0               wl      = 0               lln     = 1               wln     = 1
+lw      = 0               ww      = 0               lwn     = 1               wwn     = 1
+lwl     = 0               wwl     = 0               xpart   = 0               toxref  = 9.2e-010         xl      = -20e-9
+dlcig   = 2.7e-009

+vth0    = -0.23122        k1      = 0.2             k2      = -0.01           k3      = 0
+k3b     = 0               w0      = 2.5e-006        dvt0    = 1               dvt1    = 2
+dvt2    = -0.032          dvt0w   = 0               dvt1w   = 0               dvt2w   = 0
+dsub    = 0.1             minv    = 0.05            voffl   = 0               dvtp0   = 1e-011
+dvtp1   = 0.05            lpe0    = 0               lpeb    = 0               xj      = 1.4e-008
+ngate   = 1e+023          ndep    = 2.8e+018        nsd     = 2e+020          phin    = 0
+cdsc    = 0               cdscb   = 0               cdscd   = 0               cit     = 0
+voff    = -0.13           nfactor = 1.9             eta0    = 0.0049          etab    = 0
+vfb     = -1.058          u0      = 0.00391         ua      = -5e-010         ub      = 1.6e-018
+uc      = 0               vsat    = 78000           a0      = 1               ags     = 1e-020
+a1      = 0               a2      = 1               b0      = 0               b1      = 0
+keta    = -0.047          dwg     = 0               dwb     = 0               pclm    = 0.1
+pdiblc1 = 0.001           pdiblc2 = 0.001           pdiblcb = 3.4e-008        drout   = 0.6
+pvag    = 1e-020          delta   = 0.01            pscbe1  = 2e+009          pscbe2  = 9.58e-007
+fprout  = 0.2             pdits   = 0.08            pditsd  = 0.23            pditsl  = 2300000
+rsh     = 5               rdsw    = 105             rsw     = 52.5            rdw     = 52.5
+rdswmin = 0               rdwmin  = 0               rswmin  = 0               prwg    = 0
+prwb    = 0               wr      = 1               alpha0  = 0.074           alpha1  = 0.005
+beta0   = 30              agidl   = 0.0002          bgidl   = 2.1e+009        cgidl   = 0.0002
+egidl   = 0.8             aigbacc = 0.012           bigbacc = 0.0028          cigbacc = 0.002
+nigbacc = 1               aigbinv = 0.014           bigbinv = 0.004           cigbinv = 0.004
+eigbinv = 1.1             nigbinv = 3               aigc    = 0.010687        bigc    = 0.0012607
+cigc    = 0.0008          aigsd   = 0.010687        bigsd   = 0.0012607       cigsd   = 0.0008
+nigc    = 1               poxedge = 1               pigcd   = 1               ntox    = 1
+xrcrg1  = 12              xrcrg2  = 5

+cgso    = 1e-010          cgdo    = 1e-010          cgbo    = 0               cgdl    = 3e-011
+cgsl    = 3e-011          clc     = 1e-007          cle     = 0.6             cf      = 1.1e-010
+ckappas = 0.6             ckappad = 0.6             vfbcv   = -1              acde    = 1
+moin    = 15              noff    = 1               voffcv  = 0

+kt1     = -0.14           kt1l    = 0               kt2     = 0.022           ute     = -1.1
+ua1     = 1e-009          ub1     = -1e-018         uc1     = -5.6e-011       prt     = 0
+at      = 33000

+fnoimod = 1               tnoimod = 0               noia    = 6.25e+041       noib    = 3.125e+026
+noic    = 8.75e+009       em      = 41000000        af      = 1               ef      = 1
+kf      = 0               tnoia   = 1.5             tnoib   = 3.5             ntnoi   = 1

+jss     = 2e-007          jsws    = 4e-013          jswgs   = 4e-013          njs     = 1
+ijthsfwd= 0.1             ijthsrev= 0.1             bvs     = 10              xjbvs   = 1
+jsd     = 2e-007          jswd    = 4e-013          jswgd   = 4e-013          xjbvd   = 1
+pbs     = 1               cjs     = 0.0015          mjs     = 0.5             pbsws   = 1
+cjsws   = 9.4e-011        mjsws   = 0.33            cjswgs  = 2e-010          cjd     = 0.0015
+cjswd   = 9.4e-011        mjswd   = 0.33            pbswgd  = 1               cjswgd  = 2e-010
+mjswgd  = 0.33            tpb     = 0               tcj     = 0               tpbsw   = 0
+tcjsw   = 0               tpbswg  = 0               tcjswg  = 0               xtis    = 3

+dmcg    = 0               dmdg    = 0               dmcgt   = 0               xgw     = 0
+xgl     = 0

+rshg    = 0.1             gbmin   = 1e-012          rbpb    = 50              rbpd    = 50
+rbps    = 50              rbdb    = 50              rbsb    = 50              ngcon   = 1
         
*.INCLUDE ../model/45nm_MGK.pm
*********************************
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

*Parameter definition
.PARAM Lmin=45n
.PARAM Wmin=1u
.PARAM Ldiff=90n
	
*Description of the MOS

Mn drain gate source body nmos W={Wmin} L={Lmin} 

Vd 	drain       	0		    0
Vg 	gate	        0   		0   
Vs 	source	      0   		0
Vb 	body	        0	    	0
* Vdd alim	        0.6		  0

*Definition of type of analysis
.CONTROL
set filetype=ascii
set wr_singlescale
set wr_vecnames
set appendwrite

dc Vd 0 1.2 0.05
print V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
wrdata nmos_off/nmos_offW1.txt V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)

.ENDC
.END
